US05534481
Preparation of methyl 2-bromomethyl-3-nitrobenzoate (compound represented by the formula [XI])
A suspension containing 98 g (0.5 mol) of methyl 2-methyl-3-nitrobenzoate, 100 g (0.56 mol) of N-bromosuccinimide and 1 g of benzoyl peroxide in carbon tetrachloride (800 ml), was refluxed for 3 days under irradiation with 500 W. The suspension was cooled to room temperature and subjected to filtration, whereupon the filtrate was concentrated. To the residue, ethyl ether (200 ml) and IPE (200 ml) were added, whereupon the formed crystals were collected by filtration to obtain 121 g (yield: 88.3%) of the desired product. Melting point: 65°-67° C.

reactant | methyl 2-methyl-3-nitrobenzoate | 0.5 mol, 98 g | CC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H9NO4
reactant | N-bromosuccinimide | 0.56 mol, 100 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 800 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | methyl 2-bromomethyl-3-nitrobenzoate | 121 g, yield: 88.3% | BrCC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H8BrNO4
